*****************************************************************
* NXP PSMN3R2_30YLC
*
* Polarity N-Channel
* Ratings 30V/3.5E-03OHMS/25A
*
* Date Created Sat Apr  2 18:44:11 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R2_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000999

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00191426851016783 TC=0.00897642506275349,-1.17766959335448e-05
RBD 9 4 0.000584295686356064 TC=0.00897642506275349,-1.17766959335448e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.59653810868031e-09
RG 1 2 1.97663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1925
+ -10	1905
+ -5	1895
+ -4	1835
+ -3	1812
+ -2	1582
+ -1	1112
+ -0.5	902
+ -0.2	775
+ -0.1	735
+ 0	696.2
+ 0.1	640.9
+ 0.2	592.1
+ 0.5	481.9
+ 1	381.9
+ 2	293.8
+ 3	251.8
+ 4	225.4
+ 5	207.2
+ 6	193.4
+ 8	172.4
+ 10	158.5
+ 12	149.6
+ 15	141.5
+ 20	132.1
+ 25	125.3



.MODEL MINT NMOS(Vto=1.95369219611723 Kp=2.5593e+02 Nfs=510000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1100)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=6.05474174891085e-13
+ N=1 M=0.68 VJ=0.86 Fc=0.5 Cjo=2.1616e-09 Tt=2.7e-08)

.ENDS